Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
concern for uti
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This ___ yo female with foley and known history of recurrent UTI 
last culture positive for proteus two weeks ago that was treated 
with iv imipenem now returns with prulent urine but no fever. 
per nursing home note pt "did not look so good and was some what 
sob although sating well". her urine was noted to be milky white 
and she was therefore sent to the er. in er, ua revealed mod 
leuk and pos nitrite with ___ wcc and mod bact. mildly 
elevated wcc. she's pan-cutlured in er and started on iv 
ceftriaxone and admitted for further management. on the floor 
urine clean appearing. pt's comfortable no complaint. 
 
Past Medical History:
ms  
uti  
htn  
trigeminal neuralgia  
l nephrectomy  
hyperlipidemia  
dementia  
r hip fracture and repair  
tia  
ventral hernia  

 
Social History:
___
Family History:
nc
 
Physical Exam:
temp 98.7, hr 81/min, bp 132/70, rr 16/min, sats 95% on ra  
comfortable at rest, no apaprent distress  
neck supple, no jvd  
rrr, nl s1+s2, no m/r/g  
ctab, nl effort  
___ soft, non tender, nl bs  
no o/c/c  
a&o x 3, cns ___ grossly intact.  

 
Pertinent Results:
___ 1:50 pm URINE     Site: CATHETER

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed fecal flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------     8 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------     8 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     2 S

 
Brief Hospital Course:
UTI -indwelling catheter with recent proteus and course of 
imipenam with change in UA, +/- systemic symptoms though no 
fever or elevated WBC. urine culture returned >100K proteus. She 
was initially placed on CEFTRIAXONE in the ER which she 
tolerated. She will complete a 10 day course of IV CEFTRIAXONE 
for presumed continued urinary tract infection in the setting of 
indwelling foley.
She will be discharged back to her nursing home to complete 5 
more days of iv ceftriaxone.

Here other chronic medical problems were stable
Medicine reconcillation was done to the best of our knowledge, 
In brief: there were no changes to her pre-admission 
medications.
her only new medicine is IV ceftriaxone for 5 days and then 
stop.

 
Medications on Admission:
Per NH notes: 

vit C 500 mg BID
tylenol prn pain or fever
ipratropium-albuterol  neb q6hr prn
lorazepam 0.25 mg prn for anxiety
trazodone 25 mg po daily for agitation
Milk of magnesia prn 30 ml is no BM x 48 hours
bisacodyl prn
fleet enema prn
oyst cal with vit D 500 mg TID with meals
Vicodin ___ 1 tab TID
Vicodin prn q8hr for pain
senna 2 tabs daily in pm
aricept 10 mg bedtime
bisacodyl 
mirtazapine 15 mg bedtime
multivitamin 1 tab daily
ASA 325 mg daily
effexor 112.5 mg qAM
colace 100 mg BID
gabapentin 100 mg TID
ensure tid
supplement pudding tid

 
Discharge Medications:
1. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
3. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for wheezing or dyspnea.  
4. Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization Sig: 
One (1)  Inhalation Q6H (every 6 hours) as needed for wheezing 
or dyspnea.  
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for anxiety.  
6. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily) as 
needed for agitation.  
7. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  
8. Venlafaxine 37.5 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
9. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: 0.5 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
10. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
11. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
12. Os-Cal 500 + D 500 (1,250)-400 mg-unit Tablet, Chewable Sig: 
One (1) Tablet, Chewable PO three times a day: with meals.  
13. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

14. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
15. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
16. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets 
PO Q8H (every 8 hours) as needed for pain.  
17. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
18. Ceftriaxone-Dextrose (Iso-osm) 1 gram/50 mL Piggyback Sig: 
One (1)  Intravenous Q24H (every 24 hours) for 5 days.  
19. Pneumococcal 23-ValPS Vaccine 25 mcg/0.5 mL Injectable Sig: 
One (1) ML Injection ASDIR8 (ASDIR).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
uti -indwelling catheter

 
Discharge Condition:
improved, afebrile, no complaints, clear urine

 
Discharge Instructions:
complete iv antibiotics as prescribed.
there were no other changes to your previous medications
 
Followup Instructions:
___